US08008298B2
To a solution of 2,2-Dimethyl-1-[2-(3-piperazin-1-yl-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one (0.233 g, 0.473 mmol) in 2 mL of dimethyl formamide was added 0.074 mL of diisopropylethylamine (0.055 g, 0.425 mmol) and 0.629 mL of tert-butyl bromoacetate (0.083 g, 0.425 mmol). The reaction was stirred at room temperature overnight before quenching with water and extracting with dichloromethane. The combined organics were washed with water, dried over MgSO4, filtered and concentrated in vacuo. Silica gel chromatography (10→60% EtOAc/hexanes over 30 minutes) afforded 0.1582 g (61% yield) of (4-{3-[7-(2,2-Dimethyl-propionyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-phenyl}-piperazin-1-yl)-acetic acid tert-butyl ester as a yellow oil. MS (E/I): 608 (M+H).

reactant | 2,2-Dimethyl-1-[2-(3-piperazin-1-yl-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one | 0.473 mmol, 0.233 g | CC(C(=O)C1=CN(C2=NC=C(N=C21)C2=CC(=CC=C2)N2CCNCC2)COCC[Si](C)(C)C)(C)C | C27H39N5O2Si
reactant | diisopropylethylamine | 0.425 mmol, 0.074 mL, 0.055 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butyl bromoacetate | 0.425 mmol, 0.629 mL, 0.083 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | dimethyl formamide | 2 mL | CN(C=O)C | C3H7NO
product | (4-{3-[7-(2,2-Dimethyl-propionyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-phenyl}-piperazin-1-yl)-acetic acid tert-butyl ester | 0.1582 g, 61% yield | C(C)(C)(C)OC(CN1CCN(CC1)C1=CC(=CC=C1)C=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C)=O | C33H49N5O4Si
